US07960394B2
(1) Production of 2-amino-N-methylnicotinamide:
The intended compound was obtained according to the method of Example 1-(1) but using 2-aminonicotinic acid and methylamine.

reactant | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | methylamine | CN | CH5N
product | 2-amino-N-methylnicotinamide | NC1=C(C(=O)NC)C=CC=N1 | C7H9N3O
